US07943619B2
c) (5-Methyl-3-pyridin-2-yl-isoxazol-4-yl)-methanol
As described for example 67b, 5-methyl-3-pyridin-2-yl-isoxazole-4-carboxylic acid ethyl ester (25 g, 108 mmol) was converted, instead of 5-methyl-3-pyridin-4-yl-isoxazole-4-carboxylic acid ethyl ester, to the title compound (19.8 g, 97%) which was obtained as a light yellow solid. MS: m/e=191.3 [M+H]+.

reactant | 5-methyl-3-pyridin-2-yl-isoxazole-4-carboxylic acid ethyl ester | 108 mmol, 25 g | C(C)OC(=O)C=1C(=NOC1C)C1=NC=CC=C1 | C12H12N2O3
reactant | 5-methyl-3-pyridin-4-yl-isoxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NOC1C)C1=CC=NC=C1 | C12H12N2O3
product | (5-Methyl-3-pyridin-2-yl-isoxazol-4-yl)-methanol | 19.8 g, 97% | CC1=C(C(=NO1)C1=NC=CC=C1)CO | C10H10N2O2
